US09145376B2
2-Cyanoethanethioamide (1.00 g, 10.0 mmol) and bromoethane (821 μL, 11.0 mmol) were added to an ethanolic solution of sodium ethoxide (11.5 mmol, 5.3 mL). The resulting mixture was stirred for 6 hours, 2-aminobenzoic acid (1.50 g, 10.9 mmol) was added, and the reaction was refluxed overnight with stirring. A solid precipitate formed upon cooling of the reaction mixture, which was recovered by vacuum filtration and washed sequentially with ethanol, water, ethanol, and diethyl ether. The solid was then dried to yield 2-(4-oxo-3,4-dihydroquinazolin-2-yl)acetonitrile (872 mg, 47%). 1NMR (400 MHz, DMSO-d6) δ ppm 4.17 (s, 2H), 7.53 (t, J=7.5 Hz, 1H), 7.68 (d, J=7.9 Hz, 1H), 7.83 (t, J=7.8 Hz, 1H), 8.10 (dd, J1=7.9 Hz, J2=1.2 Hz, 1H).

reactant | 2-Cyanoethanethioamide | 10.0 mmol, 1.00 g | C(#N)CC(N)=S | C3H4N2S
reactant | bromoethane | 11.0 mmol, 821 μL | BrCC | C2H5Br
reactant | sodium ethoxide | 11.5 mmol, 5.3 mL | [O-]CC.[Na+]
reactant | 2-aminobenzoic acid | 10.9 mmol, 1.50 g | NC1=C(C(=O)O)C=CC=C1 | C7H7NO2
product | 2-(4-oxo-3,4-dihydroquinazolin-2-yl)acetonitrile | 872 mg, 47% | O=C1NC(=NC2=CC=CC=C12)CC#N | C10H7N3O
